US06858638B2
N-[5-(3-Fluorobenzenesulfonylamino)-1H-indazol-3-yl]benzamide can be obtained as described in Example 2 from 0.45 g of N-(5-amino-1H-indazol-3-yl)benzamide, 10 ml of pyridine and 0.35 g of 3-fluorobenzenesulfonyl chloride. 0.6 g of N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl]-benzamide is thus obtained in the form of a white solid melting at 225° C. (analysis C20H15FN4O3S: % calculated C, 58.53; H, 3.68; F, 4.63; N, 13.65; O, 11.69; S, 7.81. % found C, 58.38; H, 3.42; N, 13.56; S, 7.44).

reactant | N-(5-amino-1H-indazol-3-yl)benzamide | 0.45 g | NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C14H12N4O
reactant | 3-fluorobenzenesulfonyl chloride | 0.35 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl]-benzamide | 0.6 g | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C20H15FN4O3S
